US05380739
To a 3 liter 3-neck flask was added 1 liter of dry tetrahydrofuran and 48.4 ml diisopropylamine. The mixture was cooled to -50° C. under argon, and 216 ml of 1.6M of n-butyllithium (in hexane) was added dropwise over 5 minutes. The mixture was then allowed to warm to -10° C., and then recooled to -40° C. A solution of 30 g of 1-butylindole-3-carboxylic acid in 100 ml dry tetrahydrofuran was added dropwise over 5 minutes. The solution was stirred at -40° to -30° C. for 1 hour, and then recooled to -70° C. At once was added 28.61 g of 2-formyl-2'-cyanobiphenyl, and the mixture was stirred at -70° C. under argon for 2 hours. The mixture then was warmed to -20° C. and 500 ml of water was added while stirring. Ethyl acetate was then added to the mixture and the aqueous layer separated, which was extracted three times with ethyl acetate. The ethyl acetate extracts were combined, washed with 1N HCl, and dried (MgSO4). The solvent was removed under reduced pressure, and the resulting material recrystallized from a mixture of ethyl acetate and hexane, to yield 36.4 g of 1-(n-butyl)-2-[1-hydroxy-1-(2"-cyanobiphenyl-4'yl)methyl]indole-3-carboxylic acid.

reactant | diisopropylamine | 48.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M, 216 ml | C(CCC)[Li]
reactant | 1-butylindole-3-carboxylic acid | 30 g | C(CCC)N1C=C(C2=CC=CC=C12)C(=O)O | C13H15NO2
reactant | 2-formyl-2'-cyanobiphenyl | 28.61 g | C(=O)C1=C(C=CC=C1)C1=C(C=CC=C1)C#N | C14H9NO
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 500 ml | O | H2O
product | 1-(n-butyl)-2-[1-hydroxy-1-(2"-cyanobiphenyl-4'yl)methyl]indole-3-carboxylic acid | 36.4 g | C(CCC)N1C(=C(C2=CC=CC=C12)C(=O)O)C(C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)O | C27H24N2O3
